US05567670
Preparation of 3-[4-chloro-2-fluoro-5-(hydroxy)phenyl]-6-(dimethylamino)-1-methyl-1,3,5-triazine-2,4(1H,3H)-dione
A mixture of 4.62 g (11.4 mmol) of 3-[4-chloro-2-fluoro-5-(phenylmethoxy)phenyl]-6-(dimethylamino)-1-methyl-1,3,5-triazine-2,4(1H,3H)-dione and 460 mg of 10% palladium on charcoal in 50 mL of ethyl acetate was placed in a Paar bottle and was agitated under 45 psi hydrogen over a 14 hour period. It was filtered and washed with ethyl acetate. The filtrate was concentrated in vacuo and the resultant crude product flash chromatographed over silica gel eluting with a 1:1 v:v mixture of ethyl acetate and hexane to give 3.2 g of the title compound as a pale grey solid, m.p.: 247°-249° C. (dec); 1 -NMR (DMSO-d6) ppm 7.45 (d, 1H), 6.95 (d, 1H), 3.3 (s, 3H), 3.0 (s, 6H).

reactant | 3-[4-chloro-2-fluoro-5-(phenylmethoxy)phenyl]-6-(dimethylamino)-1-methyl-1,3,5-triazine-2,4(1H,3H)-dione | 11.4 mmol, 4.62 g | ClC1=CC(=C(C=C1OCC1=CC=CC=C1)N1C(N(C(=NC1=O)N(C)C)C)=O)F | C19H18ClFN4O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 460 mg | [Pd] | Pd
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-chloro-2-fluoro-5-(hydroxy)phenyl]-6-(dimethylamino)-1-methyl-1,3,5-triazine-2,4(1H,3H)-dione | 3.2 g | ClC1=CC(=C(C=C1O)N1C(N(C(=NC1=O)N(C)C)C)=O)F | C12H12ClFN4O3
